US07163958B2
12a. 3-Hydroxy-2-methyl-2-nitropropyl(2S)-2-(6-methoxy(2-naphthyl))propanoate
A solution of 1,3-dicyclohexylcarbodiimide (4.23 g, 20.5 mmol), (2S)-2-(6-methoxy(2-naphthyl))propanoic acid (naproxen, 4.34 g, 18.9 mmol), and 2-nitro-2-methyl-1,3-propanediol (2.56 g, 19.0 mmol) in CH2Cl2 (50 mL) and TEF (50 mL) was stirred at ambient temperature overnight. The solvent was evaporated and EtOAc (100 mL) was added to the resulting crude material, cooled in a dry-ice bath and the byproduct, dicyclohexyl urea was removed by filtration. The product was separated by silica gel column chromatography eluting with ethyl acetate/hexane (1:3, Rf=0.1) to give the title compound (a mixture of diasteromers) as an oil (2.77 g, 42% yield). 1H NMR (300 MHz, CDCl3) δ 7.69–7.60 (m, 3H), 7.34–7.3 (m, 1H), 7.14–7.08 (m, 2H), 4.44 (d, J=4.2 Hz, 2H), 3.86 (s, 3H), 3.85 (q, J=7.2 Hz, 1H), 3.7 (m, 1H), 1.55 (d, J=7.2 Hz, 3H), 1.36 & 1.40 (s, 3H). 13C NMR (75 MHz, CDCl3) δ 174.14, 174.02, 157.57, 134.53, 134.51, 133.64, 129.13, 128.7, 127.17, 125.87, 125.84, 119.0, 105.47, 89.53, 89.42, 64.67, 64.52, 64.19, 55.12, 45.04, 18.25, 18.03, 17.82, 17.79. Mass spectrum (API-TIS) m/z 348 (MH)+.

reactant | 1,3-dicyclohexylcarbodiimide | 20.5 mmol, 4.23 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (2S)-2-(6-methoxy(2-naphthyl))propanoic acid | 18.9 mmol, 4.34 g | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)O)C | C14H14O3
reactant | 2-nitro-2-methyl-1,3-propanediol | 19.0 mmol, 2.56 g | [N+](=O)([O-])C(CO)(CO)C | C4H9NO4
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-Hydroxy-2-methyl-2-nitropropyl(2S)-2-(6-methoxy(2-naphthyl))propanoate | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)OCC(CO)([N+](=O)[O-])C)C | C18H21NO6
